US03989689
To the mixture, prepared from the dropwise addition of 131 ml of 1.6 molar n-butyl lithium in hexane to 600 ml of liquid amonia while vigorously stirring under an artificial atmosphere of nitrogen for 40 minutes at -76°, 26.7 g of 8-chloro-2,3,4,5-tetrahydro-1-benzazepine-2,5-dione-4-carboxylic acid methyl ester are added all at once and the solution obtained stirred for 1 hour. Thereupon 14.2 g of methyl iodide are added dropwise and the mixture stirred at -35° for 3 hours. It is conbined with 24 g of ammonium chloride and 600 ml of diethyl ether and the ammonia is allowed to evaporate over night at room temperature. 500 ml of water are added to the mixture, its pH adjusted to 6-7 with 6N hydrochloric acid, the organic phase separated and the aqueous layer extracted with diethyl ether. The combined organic solutions are washed with water, dried, filtered, evaporated and the residue recrystallized from diethyl ether, to yield the 8-chloro-1-methyl-2,3,4,5-tetrahydro-1-benzazepine-2,5-dione-4-carboxylic acid methyl ester melting at 134°-136°.

reactant | n-butyl lithium | 1.6 molar, 131 ml | C(CCC)[Li]
reactant | 8-chloro-2,3,4,5-tetrahydro-1-benzazepine-2,5-dione-4-carboxylic acid methyl ester | 26.7 g | COC(=O)C1CC(NC2=C(C1=O)C=CC(=C2)Cl)=O | C12H10ClNO4
reactant | methyl iodide | 14.2 g | CI | CH3I
reactant | ammonium chloride | 24 g | [Cl-].[NH4+]
reactant | ammonia | N | H3N
solvent | hexane | CCCCCC | C6H14
solvent | diethyl ether | 600 ml | C(C)OCC | C4H10O
product | 8-chloro-1-methyl-2,3,4,5-tetrahydro-1-benzazepine-2,5-dione-4-carboxylic acid methyl ester | COC(=O)C1CC(N(C2=C(C1=O)C=CC(=C2)Cl)C)=O | C13H12ClNO4
